US06207678B1
Methanesulphonyl chloride (5.5 g) was added over 10 minutes to an ice-cooled solution of 2-(3,4-dichlorophenyl)-3-(1,3-dioxolan-2-yl)propan-1-ol (12 g) (see Preparation 15) and triethylamine (5.7 g) in dichloromethane (100 ml). The mixture was stirred for 30 minutes before further addition of dichloromethane (50 ml). The solution was then washed sequentially with water (3×50 ml) and brine (50 ml) before drying over anhydrous sodium sulphate. Removal of the solvent under reduced pressure gave 1-methanesulphonyloxy-2-(3,4-dichlorophenyl)-3-(1,3-dioxolan-2-yl)propane as a yellow oil (15.6 g) which solidified upon standing.

reactant | Methanesulphonyl chloride | 5.5 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | 2-(3,4-dichlorophenyl)-3-(1,3-dioxolan-2-yl)propan-1-ol | 12 g | ClC=1C=C(C=CC1Cl)C(CO)CC1OCCO1 | C12H14Cl2O3
reactant | triethylamine | 5.7 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 1-methanesulphonyloxy-2-(3,4-dichlorophenyl)-3-(1,3-dioxolan-2-yl)propane | 15.6 g | CS(=O)(=O)OCC(CC1OCCO1)C1=CC(=C(C=C1)Cl)Cl | C13H16Cl2O5S
